Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___ - Mitral valve replacement with redo operation with 
27 mm ___ Biocor Epic tissue valve.

 
History of Present Illness:
Mrs. ___ is a ___ year old female who is known to cardiac 
surgery who presents for surgical planning. She was last seen in 
___ during her
preoperative cardiac catheterization. During her right heart 
cath, she developed hemoptysis while obtaining a PA wedge 
pressure. She subsequently underwent coiling of a PA 
pseudoaneurysm. Now that she has recovered from a pulmonary 
standpoint, she now presents for surgical scheduling. She 
remains
symptomatic with exertional dyspnea and fatigue. She has since 
completed her cardiac catheterization which showed no 
hemodynamically significant disease.  

 
Past Medical History:
Atrial Fibrillation
Chronic Kidney Disease
Congestive Heart Failure
Diverticulitis
Hypercholesterolemia
Hypertension
Mitral regurgitation, stenosis
PVC's
Rheumatic Heart Disease
Tachy-brady syndrome
 
Social History:
___
Family History:
Father - died of CHF at ___, had MV disease. 
Brother - died at ___ from cardiac cause. 
Sister - died at ___ from cardiac related illness.
 
Physical Exam:
Vital Signs sheet entries for ___: 
BP: 112/66. HR: 102. O2 Sat: 97 (RA). RR: 16. Pain Score: 0.
Height: 61"   Weight: 76 kg

General: Well-developed female in no acute distress
Skin: Dry [X] intact [X]
HEENT: PERRLA [X] EOMI [X] Sclera anicteric, OP benign
Neck:  Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X] Healed right mini-thoracotomy 
incision.
Heart: RRR [] Irregular [X] Murmur [X] grade ___ systolic with a 
II/VI diastolic murmur 
Abd: Soft [X] non-distended [X] non-tender [X] bowel sounds +
Extremities: Warm [X], well-perfused [X] Edema - trace BLE. Well 
healed right groin incision
Varicosities: Severe right. Left appears suitable
Neuro: Grossly intact [X]

Pulses:
Femoral      Right: P  Left: P
DP           Right: P  Left: P
___           Right: P  Left: P
Radial       Right: P  Left: P
Carotid Bruit        Right: -   Left: -

 
Pertinent Results:
Transesophageal Echocardiogram ___
PRE CPB:
The left atrium is elongated. No spontaneous echo contrast or 
thrombus is seen in the body of the left atrium or left atrial 
appendage. The right atrium is moderately dilated. No atrial 
septal defect is seen by 2D or color Doppler. Left ventricular 
wall thicknesses and cavity size are normal. Right ventricular 
chamber size and free wall motion are normal. There are simple 
atheroma in the descending thoracic aorta. There are three 
aortic valve leaflets. The aortic valve leaflets (3) are mildly 
thickened. There is no aortic valve stenosis. Trace aortic 
regurgitation is seen. A bioprosthetic mitral valve prosthesis 
is present. The prosthetic mitral valve leaflets are thickened. 
The prosthesis is abnormal. The gradients are higher than 
expected for this type of prosthesis. The study is inadequate to 
exclude significant mitral valve stenosis. Moderate to severe 
(3+) mitral regurgitation is seen. The tricuspid valve leaflets 
are mildly thickened. Moderate [2+] tricuspid regurgitation is 
seen. There is no pericardial effusion. 

POST CPB:
1. Preserved bi-ventricular systolic function with background 
inotropic support (epinephrine).
2. There is a tri-leaflet bioprosthetic valve in the mitral 
position. Well seated and stable with good leaflet exscursion. 
There is trace vavlular MR. ___ gradient is around 3 mm Hg and 
MVA by PHT was > 2.5 m2.
3. No other change
.

___ 05:20AM BLOOD WBC-12.3* RBC-3.26* Hgb-9.2* Hct-29.7* 
MCV-91 MCH-28.2 MCHC-31.0* RDW-14.7 RDWSD-49.4* Plt ___
___ 04:00AM BLOOD WBC-13.9* RBC-3.22* Hgb-9.2* Hct-29.2* 
MCV-91 MCH-28.6 MCHC-31.5* RDW-14.7 RDWSD-48.8* Plt ___
___ 05:20AM BLOOD ___
___ 06:05AM BLOOD ___
___ 04:59AM BLOOD ___
___ 04:00AM BLOOD ___
___ 06:05AM BLOOD ___
___ 03:46AM BLOOD ___ PTT-31.4 ___
___ 03:53AM BLOOD ___ PTT-32.2 ___
___ 01:37PM BLOOD ___ PTT-39.7* ___
___ 02:29AM BLOOD ___ PTT-40.3* ___
___ 12:49AM BLOOD ___ PTT-37.8* ___
___ 05:20AM BLOOD Glucose-88 UreaN-40* Creat-0.9 Na-144 
K-3.8 Cl-101 HCO3-27 AnGap-16
___ 04:59AM BLOOD Glucose-94 UreaN-65* Creat-1.3* Na-138 
K-3.8 Cl-93* HCO3-33* AnGap-12
___ 01:55AM BLOOD ALT-<5 AST-44* LD(LDH)-509* AlkPhos-158* 
Amylase-107* TotBili-0.5
___ 05:20AM BLOOD Mg-2.3
 
Brief Hospital Course:
She was admitted on ___ for Heparin bridge. She remained 
stable overnight and was taken to the operating room the next 
day. She underwent redo sternotomy and mitral valve replacement. 
Please see operative note for full details. She tolerated the 
procedure well and was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. 

She weaned from sedation, awoke neurologically intact and was 
extubated later that day. She required high-flow oxygen and 
BiPAP for hypoxia. She was started on a Lasix drip. She 
initially required pacing out of the OR and EP followed her for 
possible need for pacemaker. Her rhythm recovered and she did 
not require permanent pacemaker. She will remain off nodal 
agents.  She was weaned from vasopressor support. She required 
aggressive diuresis for volume overload. Warfarin resumed for 
her history of atrial fibrillation.  

She remained hemodynamically stable and was transferred to the 
telemetry floor for further recovery. She was evaluated by the 
physical therapy service for assistance with strength and 
mobility. By the time of discharge on POD 13 she was ambulating 
freely, the wound was healing, and pain was controlled with oral 
analgesics. She was discharged to ___ Rehab in good 
condition with appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
3. Cardizem CD 120 mg oral BID 
4. Furosemide ___ mg PO DAILY 
5. Losartan Potassium 50 mg PO DAILY 
6. Metoprolol Tartrate 12.5 mg PO DAILY 
7. Warfarin 5 mg PO DAILY16 
8. Docusate Sodium 100 mg PO BID 
9. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Fish Oil (Omega 3) 1000 mg PO DAILY 
12. vitamin D3-folic acid 2,500 unit- 1 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q4H:PRN Pain - Mild 
  Reason for PRN duplicate override: gags on po apap 
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin EC 81 mg PO DAILY  
4.  GuaiFENesin ER 1200 mg PO Q12H Duration: 10 Doses  
5.  Meclizine 25 mg PO BID  
6.  Multivitamins W/minerals Liquid 15 mL PO DAILY  
7.  Polyethylene Glycol 17 g PO DAILY  
8.  Ranitidine 150 mg PO DAILY  
9.  Sodium Chloride Nasal ___ SPRY NU QID:PRN nasal irritation  
10.  TraMADol 25 mg PO TID:PRN Pain - Moderate 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every eight 
(8) hours Disp #*40 Tablet Refills:*0 
11.  ___  MD to order daily dose PO DAILY16 AF 
dose to change daily for goal INR ___.  Atorvastatin 40 mg PO QPM  
13.  Docusate Sodium 100 mg PO BID  
14.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
15.  Losartan Potassium 50 mg PO DAILY  
16.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
17.  vitamin D3-folic acid 2,500 unit- 1 mg oral DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Bioprosthetic Mitral Valve Disease 
-Atrial Fibrillation 
-Chronic Kidney Disease 
-Congestive Heart Failure(chronic, diastolic) 
-Chronic Obstructive Pulmonary Disease 
-Diverticulitis 
-Hypercholesterolemia 
-Hypertension 
-History of PVC's 
-Rheumatic Heart Disease 
-History of Tachy-brady syndrome 
-Pneumonia ___, received 5 days IV ABX 
Past Surgical History: 
s/p MVR - surgery complicated by femoral artery injury at 
cannulation site requiring multiple vascular surgeries  
s/p Right femoral artery surgery ___ 
s/p Right femoral artery angioplasty ___ 
s/p pulmonary artery pseudoaneurysm embolization ___ 
 
 
Discharge Condition:
Alert and oriented x3 non-focal
 Ambulating, deconditioned
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage

Edema- trace

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
 
Followup Instructions:
___